US05624948
To a solution of methyl 4-(2-t-butyldimethylsiloxyethyl)cinnamate (1.53 g) in ethanol (25 ml) was added a 10% palladium on activated carbon (0.15 g), and the mixture was stirred at room temperature for 2 hours under an atmosphere of hydrogen. The catalyst was removed by filtration, and the filtrate was concentrated under reduced pressure. To a solution of the residue in tetrahydrofuran (35 ml) was added lithium bis(trimethylsilyl)amide (1.0 mol/l solution in tetrahydrofuran, 3.9 ml) at -78° C., and the mixture was stirred at the same temperature for 30 minutes. To the reaction mixture was added a solution of iodomethane (0.533 g) in tetrahydrofuran (2 ml), and the mixture was stirred at room temperature for 1 hour. To the reaction mixture was added water, and the mixture was extracted with diethyl ether. The extract was washed with water, and dried over anhydrous MgSO4. The solvent was removed under reduced pressure, and the residue was purified by medium pressure liquid column chromatography on a silica gel column using a mixture of n-hexane and methylene chloride (3:1) as eluent to give 1-(2-t-butyldimethylsiloxyethyl)-4-(2-methoxycarbonylpropyl)benzene (0.724 g) as a colorless oily liquid.

reactant | methyl 4-(2-t-butyldimethylsiloxyethyl)cinnamate | 1.53 g | O([Si](C)(C)C(C)(C)C)CCC1=CC=C(C=CC(=O)OC)C=C1 | C18H28O3Si
reactant | ethanol | 25 ml | C(C)O | C2H6O
catalyst | palladium on activated carbon | 0.15 g | [Pd] | Pd
product | 1-(2-t-butyldimethylsiloxyethyl)-4-(2-methoxycarbonylpropyl)benzene | 0.724 g | O([Si](C)(C)C(C)(C)C)CCC1=CC=C(C=C1)CC(C)C(=O)OC | C19H32O3Si
